US04555514
A mixture of 20 g (0.213 mol) of 2-aminopyridine and 22.5 g (0.234 mol) of furfural in 400 ml of benzene was refluxed for 2 hours. The benzene was then evaporated off and the residue was taken up with 500 ml of methanol. The mixture was stirred in an ice bath whereupon 8.9 g (0.234 mol) of NaBH4 were added in small portions. The mixture was then stirred at ambient temperature for 5 hours. After the methanol had been evaporated off, the residue was extracted with ether to give 24.1 g of furfuryl aminopyridine having a boiling point of b.p. 0.1=98° C.

reactant | 2-aminopyridine | 0.213 mol, 20 g | NC1=NC=CC=C1 | C5H6N2
reactant | furfural | 0.234 mol, 22.5 g | C(C1=CC=CO1)=O | C5H4O2
reactant | NaBH4 | 0.234 mol, 8.9 g | [BH4-].[Na+]
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | furfuryl aminopyridine | 24.1 g | C(C1=CC=CO1)C=1C(=NC=CC1)N | C10H10N2O
